US20010000345A1
To a solution of 230 mg of 5-amino-6-methylbenzothiazole in 10 mL of 1/1 ethyl acetate/methanol are added 520 mg of ethyl N,N-bis(benzyloxycarbonyl)-pseudothiourea and 450 mg of mercuric acetate and the mixture is stirred at room temperature for 24 hours. The mixture is filtered on Celite and rotary evaporated. The residue is purified by flash column chromatography on silica gel, eluting with 20% ethyl acetate/hexanes to provide 598 mg of 5-[N2, N3-bis(benzyloxycarbonyl)guanidino]-6-methybenzothiazole as a yellow solid.

reactant | 5-amino-6-methylbenzothiazole | 230 mg | NC=1C(=CC2=C(N=CS2)C1)C | C8H8N2S
reactant | ethyl N,N-bis(benzyloxycarbonyl)-pseudothiourea | 520 mg | C(C)N=C(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)S | C19H20N2O4S
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 5-[N2, N3-bis(benzyloxycarbonyl)guanidino]-6-methybenzothiazole | 598 mg | C(C1=CC=CC=C1)OC(=O)N=C(NC=1C(=CC2=C(N=CS2)C1)C)NC(=O)OCC1=CC=CC=C1 | C25H22N4O4S
